US07345050B2
2-[4-(1,3-Thiazol-2-ylcarbonyl)anilino]-4-(imidazo-[1,2-a]-pyridin-3-yl)pyrimidine
The title compound was prepared from 2-amino-4-(imidazo-[1,2-a]pyridin-3-yl)pyrimidine and (4-bromophenyl)(1,3-thiazol-2-yl)methanone following the general method of Example 1 using cesium carbonate as the base and tris(dibenzylideneacetone)dipalladium (0) as the palladium source. The crude product was purified by column chromatography on silica gel using chloroform/ethanol, 95:5, as the eluent affording 0.126 g (45% yield) of the title compound as a yellow solid: mp (decomp.) 234-235° C.; MS (TSP) m/z 399 (M+1);

reactant | 2-amino-4-(imidazo-[1,2-a]pyridin-3-yl)pyrimidine | NC1=NC=CC(=N1)C1=CN=C2N1C=CC=C2 | C11H9N5
reactant | (4-bromophenyl)(1,3-thiazol-2-yl)methanone | BrC1=CC=C(C=C1)C(=O)C=1SC=CN1 | C10H6BrNOS
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | palladium | [Pd] | Pd
product | 2-[4-(1,3-Thiazol-2-ylcarbonyl)anilino]-4-(imidazo-[1,2-a]-pyridin-3-yl)pyrimidine | 0.126 g, 45% yield | S1C(=NC=C1)C(=O)C1=CC=C(NC2=NC=CC(=N2)C2=CN=C3N2C=CC=C3)C=C1 | C21H14N6OS
